* Created by KLayout

* cell MUX2
* pin S
* pin Y
* pin B
* pin A
* pin vdd
* pin gnd
.SUBCKT MUX2 S Y B A vdd gnd
* device instance $1 r0 *1 38.1,46.5 PMOS_mst
M$1 \$7 S \$5 vdd PMOS_mst L=1U W=6.8U AS=19.04P AD=10.2P PS=19.2U PD=9.8U
* device instance $2 r0 *1 42.1,46.5 PMOS_mst
M$2 vdd A \$7 vdd PMOS_mst L=1U W=6.8U AS=10.2P AD=19.04P PS=9.8U PD=19.2U
* device instance $3 r0 *1 26.1,47.35 PMOS_mst
M$3 Y \$5 vdd vdd PMOS_mst L=1U W=5.1U AS=14.28P AD=7.65P PS=15.8U PD=8.1U
* device instance $4 r0 *1 30.1,47.35 PMOS_mst
M$4 vdd \$5 Y vdd PMOS_mst L=1U W=5.1U AS=7.65P AD=14.28P PS=8.1U PD=15.8U
* device instance $5 r0 *1 14.1,46.5 PMOS_mst
M$5 \$4 \$2 \$5 vdd PMOS_mst L=1U W=6.8U AS=19.04P AD=10.2P PS=19.2U PD=9.8U
* device instance $6 r0 *1 18.1,46.5 PMOS_mst
M$6 vdd B \$4 vdd PMOS_mst L=1U W=6.8U AS=10.2P AD=19.04P PS=9.8U PD=19.2U
* device instance $7 r0 *1 6.1,46.5 PMOS_mst
M$7 vdd S \$2 vdd PMOS_mst L=1U W=6.8U AS=19.04P AD=19.04P PS=19.2U PD=19.2U
* device instance $8 r0 *1 14.1,6.8 NMOS_mst
M$8 \$5 S \$4 gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $9 r0 *1 18.1,6.8 NMOS_mst
M$9 \$4 S \$5 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $10 r0 *1 22.1,6.8 NMOS_mst
M$10 gnd B \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $11 r0 *1 26.1,6.8 NMOS_mst
M$11 Y \$5 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $12 r0 *1 34.9,6.8 NMOS_mst
M$12 \$5 \$2 \$7 gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $13 r0 *1 38.9,6.8 NMOS_mst
M$13 \$7 \$2 \$5 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $14 r0 *1 42.9,6.8 NMOS_mst
M$14 gnd A \$7 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $15 r0 *1 6.1,6.8 NMOS_mst
M$15 gnd S \$2 gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
.ENDS MUX2
